US05211879
Synthesis of 5-(4-(2-fluoro-2-methylpentanoyloxy)phenyl)-2-(4-butyloxyphenyl)-pyrimidine
3.6 g (0.01 mol) of 5-(4-hydroxyphenyl)-2-(4-butyloxyphenyl)pyrimidine, 1.5 g (0.01 mol) of (-)-2-fluoro-2-methylpentanoic acid, 2.1 g (0.01 mol) of N,N'-dicylohexylcarbodiimide (DCC) and 130 mg (1.0×10-3 mol) of 4-dimethylaminopyridine were dissolved in 190 ml of dried methylene chloride, which were stirred under reflux for 6 hours. After the completion of the reaction, the precipitate was removed by filtration and then the filtrate was washed with 1 normal hydrochloric acid and further with water and thereafter dried on anhydrous magnesium sulfate. After the removal of magnesium sulfate by filtration, the filtrate was purified through a column chromatography of silica gel with a developing solvent (toluene: ethyl acetate=10:1 (V/V)) and recrystallized from 30 ml of ethanol to obtain 660 mg (yield: 15%) of a white crystal. The thus obtained compound has the aforementioned physical and chemical properties.

reactant | 5-(4-hydroxyphenyl)-2-(4-butyloxyphenyl)pyrimidine | 0.01 mol, 3.6 g | OC1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCC | C20H20N2O2
reactant | (-)-2-fluoro-2-methylpentanoic acid | 0.01 mol, 1.5 g | FC(C(=O)O)(CCC)C | C6H11FO2
reactant | N,N'-dicylohexylcarbodiimide | 0.01 mol, 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1.0×10-3 mol, 130 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-(2-fluoro-2-methylpentanoyloxy)phenyl)-2-(4-butyloxyphenyl)-pyrimidine | 660 mg, yield: 15% | FC(C(=O)OC1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCC)(CCC)C | C26H29FN2O3
